US07157447B2
N-(4-Fluoro-2-(3-methyl-1H-1,2,4-triazol-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and intermediate 85, (4-fluoro-2-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)methanamine. White crystals; mp 203° C. (ethyl acetate). 1HNMR 400 MHz (CDCl3) δ (ppm): 1.65 (6H, s, 2×CH3), 2.50 (3H, s, CH3), 4.03 (4H, m, 2×CH2), 4.46 (2H, d, J=6.6 Hz, NCH2), 5.31 (2H, s, OCH2), 7.06 (1H, dd, J=3 Hz and J=8.6 Hz, aromatic), 7.16 (1H, m, aromatic), 7.30–7.34 (3H, m, aromatics), 7.50 (2H, m, aromatics), 7.74 (1H, dd, J=6.0 Hz and J=8.6 Hz, aromatic), 8.28 (1H, s, CH), 8.45 (1H, broad t, NH). Anal. Calcd for C27H27FN6O4: C, 62.54; H, 5.25; N, 16.21. Found: C, 62.48; H, 5.31; N, 16.29.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | (4-fluoro-2-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)methanamine | FC1=CC(=C(C=C1)CN)N1N=C(N=C1)C | C10H11FN4
product | N-(4-Fluoro-2-(3-methyl-1H-1,2,4-triazol-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)N1N=C(N=C1)C | C27H27FN6O4
